US09353107B2
Step-ii: N-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidin-4-amine
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 5-(4-((tert-butoxycarbonyl)(1-(tert-butoxycarbonyl)piperidin-4-yl)amino)phenyl)-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (25 mg, 0.050 mmol) was deprotected in methanol/ether HCl (3/2 ml). This afforded 5 mg (31.2% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.70 (s, 1H), 8.59 (s, 1H), 7.80 (s, 1H), 7.72-7.70 (d, 2H), 7.46-7.40 (m, 1H), 7.02-7.18 (d, 2H), 7.12-7.09 (m, 2H), 7.02-7.00 (d, 1H), 5.51 (s, 2H), 3.85-3.80 (m, 1H), 3.52-3.47 (d, 2H), 3.20-3.10 (t, 2H), 2.33-2.13 (m, 8H), 2.13-1.83 (m, 2H). MS: m/z=494.9 (M+1), HPLC: 95.22% in method B.

reactant | tert-butyl 5-(4-((tert-butoxycarbonyl)(1-(tert-butoxycarbonyl)piperidin-4-yl)amino)phenyl)-3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.050 mmol, 25 mg | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)C(=O)OC(C)(C)C)C2CCN(CC2)C(=O)OC(C)(C)C | C45H55FN6O6
solvent | methanol ether HCl | 2 ml | CO.CCOCC.Cl
product | N-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperidin-4-amine | 5 mg, 31.2% yield | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)NC3CCNCC3)C)C=CC1 | C30H31FN6
